US09238640B2
To a solution of [2-(3-bromomethyl-5-methyl-phenoxy)-ethoxy]-tert-butyl-dimethyl-silane (2.17 g, 6.04 mmol) under nitrogen in 2-nitropropane (2.0 mL, 20 mmol) was added sodium ethoxide (0.620 g, 9.06 mmol). The resulting mixture was heated at 90° C. for 15 hours, and was then diluted with ethyl acetate and quenched with saturated aqueous ammonium chloride. The aqueous layer was extracted with ethyl acetate and the combined organic layers were backwashed with water and brine, dried over sodium sulfate, and concentrated. The crude material (1.81 g) was purified by column chromatography (silica gel 230-400 mesh; 1/0 to 4/1 hexanes/EtOAc as eluent) to give 3-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-methyl-benzaldehyde as a yellow oil. Yield: 0.97 g (55%).

reactant | [2-(3-bromomethyl-5-methyl-phenoxy)-ethoxy]-tert-butyl-dimethyl-silane | 6.04 mmol, 2.17 g | BrCC=1C=C(OCCO[Si](C)(C)C(C)(C)C)C=C(C1)C | C16H27BrO2Si
reactant | 2-nitropropane | 20 mmol, 2.0 mL | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | sodium ethoxide | 9.06 mmol, 0.620 g | [O-]CC.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-methyl-benzaldehyde | C(C)(C)(C)[Si](OCCOC=1C=C(C=O)C=C(C1)C)(C)C | C16H26O3Si
